US04111923
Nα -t-Butoxycarbonyl-D-valine p-nitrophenyl ester is prepared from 5 g., 24 mmol, of Nα -t-butoxycarbonyl-D-valine, 4.8 g., 24 mmol, of dicyclohexylcarbodiimide and 3.4 g., 24 mmol, of p-nitrophenol dissolved in 25 ml. of dimethylformamide and the solution let stand at room temperature overnight. The solids are separated by filtration and the filtrate evaporated to dryness under reduced pressure. The residual oil is purified by chromatography on silica gel in methanol-benzene (5:95); 5 g.; [α]D23 +21° (c 1.0, methanol); ultraviolet in methanol λmax 270 E11 204.

reactant | Nα -t-butoxycarbonyl-D-valine | C(C)(C)(C)OC(=O)N[C@H](C(C)C)C(=O)O | C10H19NO4
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Nα -t-Butoxycarbonyl-D-valine p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@H](NC(=O)OC(C)(C)C)C(C)C)=O | C16H22N2O6
